US05977152
(2E,4E)-3-Methyl-5-[4-(trifluoromethyl)phenyl]-2,4-pentadienal
In 10 ml of methylene chloride were dissolved 460 mg (1.90 mmol) of (2E,4E)-3-methyl-5-[4-(trifluoromethyl)phenyl]-2,4-pentadien-1-ol, and 5 g of active manganese dioxide were added to the mixture, followed by stirring of the resulting mixture at room temperature for 30 minutes. The solid was removed by filtration, and after the filtrate was concentrated, it was purified over silica gel chromatography (eluting solvent: 4% ethyl acetate-hexane) to obtain 460 mg of the title compound as an oil.

reactant | (2E,4E)-3-methyl-5-[4-(trifluoromethyl)phenyl]-2,4-pentadien-1-ol | 1.90 mmol, 460 mg | C\C(=C/CO)\C=C\C1=CC=C(C=C1)C(F)(F)F | C13H13F3O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | manganese dioxide | 5 g | [O-2].[O-2].[Mn+4]
product | (2E,4E)-3-Methyl-5-[4-(trifluoromethyl)phenyl]-2,4-pentadienal | 460 mg | C\C(=C/C=O)\C=C\C1=CC=C(C=C1)C(F)(F)F | C13H11F3O
